US06869954B2
Preparation of 4-dimethylaminomethyl-2-isobutyl-6-phenyl-2H-pyridazin-3-one
Following the procedure of Example 7, 2-isobutyl-4-methanesulfonyloxymethyl-6-phenyl-2H-pyridazin-3-one and dimethylamine were reacted to yield the title compound as a yellow oil (yield: 81.1%).

reactant | 2-isobutyl-4-methanesulfonyloxymethyl-6-phenyl-2H-pyridazin-3-one | C(C(C)C)N1N=C(C=C(C1=O)COS(=O)(=O)C)C1=CC=CC=C1 | C16H20N2O4S
reactant | dimethylamine | CNC | C2H7N
product | 4-dimethylaminomethyl-2-isobutyl-6-phenyl-2H-pyridazin-3-one | yield: 81.1% | CN(C)CC=1C(N(N=C(C1)C1=CC=CC=C1)CC(C)C)=O | C17H23N3O
